* AD827 SPICE Macro-model                   7/2006, Rev. A
*                                           TRW / ADI
*						
*
* Copyright 2006 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*               non-inverting input
*               | inverting input
*               | | positive supply
*               | | |  negative supply
*               | | |  |  output
*               | | |  |  |
*               | | |  |  |
.SUBCKT AD827ab   1 2 99 50 30
*
* INPUT STAGE & POLE AT 300 MHZ
*
R1   2  3     5E11
R2   1  3     5E11
R3   5 99     443
R4   6 99     443
CIN  1  2     1.5E-12
C2   5  6     0.599E-12
I1   4  50    2.22E-3
IOS  1  2     25E-9
EOS  9  1     POLY(1)  19 23  0.5E-3  1
Q1   5  2 10  QX
Q2   6  9 11  QX
R5   10 4     419.8
R6   11 4     419.8
*
EREF 98 0     23  0  1
*
* GAIN STAGE & DOMINANT POLE AT 8.8 KHZ
*
R7  12 98     2.44E6
C3  12 98     7.4E-12
G1  98 12     5  6  2.25E-3
V2  99 13     2.1
V3  14 50     2.1
D3  12 13     DX
D4  14 12     DX
*
* ZERO/POLE PAIR AT 70MHz/200MHz
*
R8  15 16     1E6
R9  16 98     1.86E6
L1  16 98     1.48E-3
G2  98 15     12 23  1E-6
*
* POLE AT 300 MHZ
*
R41 41 98     1E6
C41 41 98     531E-18
G41 98 41     15 23  1E-6
*
* POLE AT 300 MHZ
*
R42 42 98     1E6
C42 42 98     531E-18
G42 98 42     41 23  1E-6
*
* POLE AT 400 MHZ
*
R43 43 98     1E6
C43 43 98     398E-18
G43 98 43     42 23  1E-6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 40 kHZ
*
R11 18 19     1E6
C6  18 19     3.98E-12
R12 19 98     1
E2  18 98     3  23  17.8
*
* POLE AT 400 MHZ
*
R15 22 98     1E6
C8  22 98     398E-18
G3  98 22     43 23  1E-6
*
* OUTPUT STAGE
*
RF  30 60     500
CF  60 12     12.5E-12
R16 23 99     100E3
R17 23 50     100E3
ISY 99 50     2.95E-3
R18 25 99     90
R19 25 50     90
L2  25 30     3E-8
G4  28 50     22 25  11.11E-3
G5  29 50     25 22  11.11E-3
G6  25 99     99 22  11.11E-3
G7  50 25     22 50  11.11E-3
V4  26 25     0.8
V5  25 27     0.8
D5  22 26     DX
D6  27 22     DX
D7  99 28     DX
D8  99 29     DX
D9  50 28     DY
D10 50 29     DY
*
* MODELS USED
*
.MODEL QX NPN(BF=336)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.ENDS


*$
* AD8145  SPICE Macro-model                 7/2007 Rev. PrA.
*					    CK / ADI
*
* Copyright 2002 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* AD8145  SPICE Macro-model                 5/2003 Rev. PrA.
*					    TRW / ADI
*
* Copyright 2002 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
*  The following characteristics are modeled:
*  Bandwidth (500MHz for LS and 270MHz for SS)
*  Slew Rate (2000 v/us at 2Vp-p)
*  Input Bias Current
*  Offset Voltage
*  Output Swing (-4V, +3.5V)
*  Noise is not modelled
*  Distortion is not modelled
*  
*
* Node assignments
*                IN+ input
*                | IN- input
*                | | REF input
*                | | | FB input
*                | | | |  V+
*                | | | |  |  V-
*                | | | |  |  |  out
*                | | | |  |  |  |
.SUBCKT AD8145a   1 2 3 4a 99 50 455
Rf 45 4 350
Rg 4 4a 350
Cg 4 4a 0.8pF
*
* INPUT STAGE
*
Q1   17  1   9   QX
Q2   18  11  10  QX
R1   9   12  1150
R2   10  12  1150
I1   12  50   2E-3
Dcm1 95 12 dx
Vcm1 95 50 2.4
Dcm2 94 16 dx
Vcm2 94 50 2.4
EOS1 2   11  POLY(1) (31,98)  1.5E-3  1
IOS1 1   2   0.08u
C1   1   2   3E-12
RD1  1   2   6E6
*
* REF/FB INPUT STAGE
*
Q3   17  3   14  QY
Q4   18  13  15  QY
R3   14  16  1150
R4   15  16  1150
I2   16  50   2E-3
VOS2 4   13  1.5E-3
IOS2 3   4   0.08u
C2   3   4   2E-12
RD2  3   4   1.93E6
VC1  32  17  DC  0.7
VC2  33  18  DC  0.7
D7   99   32  DX
D8   99   33  DX
*
* TRANSCONDUCTANCE STAGE & DOMINANT POLE AT 350 KHZ
*
R7   19  98  6E6
C3   19  98  .45E-12
F1   98  19  POLY(2)  VC1  VC2  0   1   -1
V2   99   20  2
V3   21  50   1.5
D1   19  20  DX
D2   21  19  DX
*
* POLE AT 500 MHZ
*
R6   23  98   100k
C4   23  98   1f
G2   98  23   19  98  1e-5
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 100 KHZ
*
R10  30  31   1E6
R11  31  98   1
C7   30  31   3.18E-12
E3   98  30   POLY(2)  (1,98) (2,98)  0  5  5
*
* OUTPUT STAGE
*
Eref 98 0 poly(2) 50 0 99 0 0 0.5 0.5
FSY  99   50   POLY(2) V7 V8 10E-3 1 1
R15  29  99   12
R16  29  50   12
L1   29  45   6E-10
G7   29  99   99  23  83.3e-3
G8   50  29   23  50  83.3e-3
V4   25 29   -.332
V5   29 26   -.3
D3   23 25  DX
D4   26 23  DX
G5   98 70   29 23 2.94E-2
D5   70 71   DX
D6   72 70   DX
V7   71 98   DC 0
V8   98 72   DC 0
*
* MODELS USED
*
.MODEL QX NPN(BF=400)
.MODEL QY NPN(BF=200)
.MODEL DX   D(IS=1E-15)
.ENDS
*$

.SUBCKT irfe330a 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep  13, 07
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.79994 LAMBDA=0.000119062 KP=3.02115
+CGSO=6.04697e-06 CGDO=1e-11
RS 8 3 0.00755625
D1 3 1 MD
.MODEL MD D IS=1e-06 RS=0.0742612 N=0.6 BV=400
+IBV=0.001 EG=1 XTI=1 TT=1e-07
+CJO=6.31679e-10 VJ=4.99466 M=0.9 FC=0.5
RDS 3 1 8e+07
RD 9 1 0.852237
RG 2 7 17.5046
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=8.40945e-10 VJ=1.72598 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=1 RS=2.99999e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 8.40945e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=1
.ENDS irfe330

;$SpiceType=AMBIGUOUS
